US05155236
N-(4'-Chlorophenyl)-2-ethoxymethylene-3-oxobutanamide (1.3 g) was stirred in toluene (10 ml) whilst 1,1-diethoxyprop-1-ene (2 g) was added dropwise. The mixture was stirred at room temperature for 40 hours and evaporated to dryness. The residual gum was purified by medium pressure liquid chromatography on K60 silica using ethyl acetate/petroleum ether b.p. 60°-80° C. 15/85 v/v as eluting solvent to give two stereoisomers. The first isomer after trituration with n-hexane gave trans-N-(4'-chlorophenyl)-2,2-diethoxy-3,6-dimethyl-4-ethoxy-3,4-dihydro-2H-pyran-5-carboxamide (0.6 g), m.p. 104°-106° C. The n.m.r. spectrum (deuterochloroform) showed the --CH(OEt)-- signal at 4.0 ppm (doublet of quartets 1H, J=3 Hz and 1 Hz), consistent with the transconfiguration. The second isomer, after trituration with n-hexane, gave cis-N-(4'-chlorophenyl)-2,2-diethoxy-3,6-dimethyl-4-ethoxy-3,4-dihydro-2H-pyran-5-carboxamide (0.1 g), m.p. 125°-7° C. The n.m.r. spectrum (deuterochloroform) showed the --CH(OEt)--signal at 4.5 ppm (doublet of quartets, 1H, J=7 Hz and 1 Hz) consistent with the cis-configuration.

reactant | N-(4'-Chlorophenyl)-2-ethoxymethylene-3-oxobutanamide | 1.3 g | ClC1=CC=C(C=C1)NC(C(C(C)=O)=COCC)=O | C13H14ClNO3
reactant | 1,1-diethoxyprop-1-ene | 2 g | C(C)OC(=CC)OCC | C7H14O2
reactant | n-hexane | CCCCCC | C6H14
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | trans-N-(4'-chlorophenyl)-2,2-diethoxy-3,6-dimethyl-4-ethoxy-3,4-dihydro-2H-pyran-5-carboxamide | 0.6 g | ClC1=CC=C(C=C1)NC(=O)C=1[C@H]([C@@H](C(OC1C)(OCC)OCC)C)OCC | C20H28ClNO5
